US06599917B1
c) (3R)-3-[2-Benzyl-6-[(3S,4R)-3-chloro-4-methoxypyrrolidine-1-yl]-3-pyridyl]ethynyl-3-quinuclidinol
A mixture of 391 mg of 2-benzyl-6-[(3S,4R)-3-chloro-4-methoxypyrrolidine-1-yl]-3-iodopyridine, 152 mg of (3R)-3-ethynyl-3-quinuclidinol, 105 mg of tetrakis(triphenylphosphine)palladium(0), 9 mg of cuprous iodide, 0.38 ml of triethylamine and 5.0 ml of N,N-dimethylformamide was heated under stirring for 4 hours at 75° C. in a nitrogen atmosphere, followed by removing the solvent. The residue was subjected to NH-silica gel (Fuji Silicia) column chromatography and eluted with hexane/ethyl acetate (1:1) and then with ethyl acetate/methanol (20:1) and then crystallized from hexane/ethyl acetate, to give 150 mg of the target compound.

reactant | 2-benzyl-6-[(3S,4R)-3-chloro-4-methoxypyrrolidine-1-yl]-3-iodopyridine | 391 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1I)N1C[C@@H]([C@@H](C1)OC)Cl | C17H18ClIN2O
reactant | (3R)-3-ethynyl-3-quinuclidinol | 152 mg | C(#C)[C@]1(CN2CCC1CC2)O | C9H13NO
reactant | triethylamine | 0.38 ml | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 105 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
product | (3R)-3-[2-Benzyl-6-[(3S,4R)-3-chloro-4-methoxypyrrolidine-1-yl]-3-pyridyl]ethynyl-3-quinuclidinol | 150 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1C#C[C@]1(CN2CCC1CC2)O)N2C[C@@H]([C@@H](C2)OC)Cl | C26H30ClN3O2
